US07709500B2
N-{(2S)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-1-oxo-1,2-dihydroisoquinoline-4-sulfonamide acetate salt
(2R)-1-Amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) in pyridine (2 ml) was treated with 1-oxo-1,2-dihydroisoquinoline-4-sulfonyl chloride (0.11 g) and the mixture was stirred at ambient temperature for 18 h. After further additions of the sulfonyl chloride (0.05 g) and stirring for 24 h the solvent was evaporated. Purification by column chromatography and reverse phase HPLC (symmetry C8 column and acetonitrile/0.1% aqueous ammonium acetate) yielded the title compound as a white solid (0.06 g).

reactant | (2R)-1-Amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 1-oxo-1,2-dihydroisoquinoline-4-sulfonyl chloride | 0.11 g | O=C1NC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C9H6ClNO3S
reactant | sulfonyl chloride | 0.05 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-{(2S)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-1-oxo-1,2-dihydroisoquinoline-4-sulfonamide acetate salt | 0.06 g | C(C)(=O)O.ClC=1C=C(OC2CCN(CC2)C[C@@H](CNS(=O)(=O)C2=CNC(C3=CC=CC=C23)=O)O)C=CC1Cl | InChI=1S/C23H25Cl2N3O5S.C2H4O2/c24-20-6-5-17(11-21(20)25)33-16-7-9-28(10-8-16)14-15(29)12-27-34(31,32)22-13-26-23(30)19-4-2-1-3-18(19)22;1-2(3)4/h1-6,11,13,15-16,27,29H,7-10,12,14H2,(H,26,30);1H3,(H,3,4)/t15-;/m1./s1
